US04775671
A suspension of 5.51 g (20 mmol) of 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde, 2.23 g (26.6 mmol) of O-methylhydroxylamine hydrochloride and 75 ml of water is treated dropwise at room temperature with a solution of 7.67 g (26.6 mmol) of sodium bicarbonate in 65 ml of water. 40 ml of methanol are added thereto and the mixture is stirred at 70° for 8 hours. The mixture is then poured into 700 ml of water, the suspension is suction filtered and the filter residue is dissolved in methylene chloride. The solution is dried over magnesium sulphate and evaported. By chromatography on silica gel while eluting with ethyl acetate and recrystallization from ethyl acetate there is obtained 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3carboxaldehyde O-methyl oxime of melting point 173°-174°.

reactant | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carboxaldehyde | 20 mmol, 5.51 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C=O)C)=O | C13H10ClN3O2
reactant | O-methylhydroxylamine hydrochloride | 26.6 mmol, 2.23 g | Cl.CON
reactant | sodium bicarbonate | 26.6 mmol, 7.67 g | C([O-])(O)=O.[Na+]
reactant | methanol | 40 ml | CO | CH4O
solvent | water | 65 ml | O | H2O
solvent | water | 700 ml | O | H2O
solvent | water | 75 ml | O | H2O
product | 7-chloro-5,6-dihydro-5-methyl-6-oxo-4H-imidazo[1,5-a][1,4]benzodiazepine-3carboxaldehyde O-methyl oxime | CON=CC=1N=CN2C1CN(C(C1=C2C=CC=C1Cl)=O)C | C14H13ClN4O2
